* This is the potentiometer
*       
*             1 
*             |
*            | |
* control 4 -| |- 3 wiper
*            | |
*             |
*             2
*
* Control input 0V to 1V, 0V means wiper near pin-2
.SUBCKT potentiometer_vc 1 2 3 4
R0 1 3 R={Rtot}*limit(1m,(1-V(4)),999m)
R1 3 2 R={Rtot}*limit(1m,V(4),999m)
.ENDS
