.subckt DIAC T1 T2
R1 T1 N001 {Rs}
Q1 N003 N002 T2 0 PNP
Q2 N002 N003 N001 0 NPN
D1 N003 N002 D
R2 N003 N001 {Rk}
Q3 N005 N004 N001 0 PNP
D2 N005 N004 D
Q4 N004 N005 T2 0 NPN
R3 N003 N005 1Meg
R4 N005 T2 {Rk}
.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.bjt
.param Rk = (.491 * Rs + 491k) / (Vbr - .982)
.backanno
.end

